US06712918B2
Preparation of Copper Diammonium Bitetrazole Via Reaction (4), Above
In this Example, 49.88 grams of bitetrazole were suspended in 100 ml of water. Subsequently, 53.31 grams of copper diammonium carbonate were slowly added to the reaction mixture and the reaction mixture was allowed to off-gas. The resulting reaction mixture was then heated to 90° C. and held at that temperature for approximately 1 hour. A solid was formed that was filtered, washed with water, filtered again and then vacuum oven dried at 80° C. The resulting solid was in a yield of 80.45 grams as compared to the theoretical yield of 79.69 grams. (NOTE: The greater than theoretical yield is believed again attributable to incomplete conversion of the starting materials during processing.) TABLE 2, below, identifies the elemental chemical analysis of the material formed as well as the elemental chemical analysis for a corresponding theoretical composition of CuC2H6N10. The x-ray diffraction pattern obtained for a powder sample of the material of Example 3 is shown in FIG. 3.

reactant | bitetrazole | 49.88 grams | N1=NN=NC1=C1N=NN=N1 | C2N8
reactant | copper diammonium carbonate | 53.31 grams | C([O-])([O-])=O.[NH4+].[NH4+].[Cu]
solvent | water | 100 ml | O | H2O
product | Copper Diammonium Bitetrazole | N1=NN=NC1=C1N=NN=N1.[NH4+].[NH4+].[Cu+2] | InChI=1S/C2N8.Cu.2H3N/c3-1(4-8-7-3)2-5-9-10-6-2;;;/h;;2*1H3/q;+2;;/p+2
